US08754054B2
To a solution of (6R,6aS,14aR)-methyl 1,6,8,14a-tetrahydroxy-11-((2S,3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylate (50 mg, 0.072 mmol) in chloroform (1 mL) was added N-bromosuccinimide (13 mg, 0.072 mmol) followed by benzoyl peroxide (1-2 mg). The reaction mixture was refluxed at 75° C. for 1 h. After cooled to room temperature, the reaction mixture was diluted with chloroform (10 mL) and washed with saturated sodium bicarbonate (5 mL). The aqueous layer was further extracted with chloroform (2×10 mL). The combined organics were dried (Na2SO4), filtered and concentrated. The crude material was purified by preparative TLC (silica gel, 95:5 chloroform/methanol) and semi-preparative HPLC to afford (6R,6aS,14aR)-methyl 4-bromo-1,6,8,14a-tetrahydroxy-11-((2S,3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylate (20 mg, 36%) as a dark red solid: 1H NMR (500 MHz, CDCl3) δ 14.22 (s, 1H), 11.62 (br s, 1H), 8.19 (s, 1H), 6.85 (d, J=9.0 Hz, 1H), 5.88 (s, 1H), 5.29 (s, 1H), 4.99 (s, 1H), 4.72 (s, 1H), 4.68 (d, J=8.5 Hz, 1H), 3.88 (s, 3H), 3.79 (s, 3H), 3.76-3.65 (m, 2H), 3.61 (s, 3H), 3.55 (d, J=6.5 Hz, 1H), 3.45 (d, J=20.5 Hz, 1H), 3.41 (s, 3H), 3.38-3.31 (m, 1H), 3.13 (t, J=9.5 Hz, 1H), 2.59 (s, 3H), 2.48 (d, J=4.5 Hz, 1H), 1.36 (d, J=6.0 Hz, 3H); MS (ESI+) m/z 776 (M+H); HPLC >99% (AUC), tR 14.64 min.

reactant | (6R,6aS,14aR)-methyl 1,6,8,14a-tetrahydroxy-11-((2S,3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylate | 0.072 mmol, 50 mg | OC1=C(C(=CC2=C1[C@@]1(C(C3=CC=4C(C(=CC(C4C(=C3C([C@@]1([C@@H](C2)O)OC)=O)O)=O)N[C@H]2O[C@H]([C@@H]([C@H]([C@H]2OC)O)OC)C)=O)=O)O)C)C(=O)OC | C34H35NO15
reactant | N-bromosuccinimide | 0.072 mmol, 13 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 1-2 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | chloroform | 1 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | (6R,6aS,14aR)-methyl 4-bromo-1,6,8,14a-tetrahydroxy-11-((2S,3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylate | 20 mg, 36% | BrC1=C(C(=C(C2=C1C[C@H]([C@]1(C(C3=C(C=4C(C=C(C(C4C=C3C([C@@]21O)=O)=O)N[C@H]2O[C@H]([C@@H]([C@H]([C@H]2OC)O)OC)C)=O)O)=O)OC)O)O)C(=O)OC)C | C34H34BrNO15
